* C:\Users\agust\OneDrive\Documentos\LTspice\SRA\TP3_C3.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 vin N001 V+ V- N005 LM324 ;§pnba In+)In-)V+)V-)OUT
X§U2 N006 N003 V+ V- Avf LM6181 ;§pnba In+)In-)V+)V-)OUT
R1 N001 0 10k
R2 Avf N001 90k
R3 Avf N003 3925.46
R4 N003 0 95.9
V- V- 0 -15
V2 V+ 0 15
V3 vin 0 AC 1
X§U3 0 N002 V+ V- N007 LM324 ;§pnba In+)In-)V+)V-)OUT
X§U4 N008 N004 V+ V- T LM6181 ;§pnba In+)In-)V+)V-)OUT
R5 N002 0 10k
R6 vin N002 90k
R7 T N004 3925.46
R8 N004 0 95.9
R9 N006 N005 3145.355
C1 N006 N005 10p
R10 N006 0 3145.355
R11 N008 N007 3145.355
C2 N008 N007 10p
R12 N008 0 3145.355
R13 Red_out vin 3145.355
C3 Red_out vin 10p
R14 Red_out 0 3145.355
.include LM324_2P.lib
.include LM6181_CFA.lib
.ac dec 1000 1 10G
.backanno
.end
